US07560551B2
Dioxane (2.0 mL) was added to a 20 mL sealed tube. The tube was purged with nitrogen for 5 minutes. To this was added tert-butyl 4-bromo-3-cyano-1-H-pyrazole-1-carboxylate (0.100 g, 0.368 mmol), 4-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yloxy)benzenamine (0.229 g, 0.735 mmol), and sodium carbonate (2.0 M in water)(0.667 mL). Palladium(II) acetate (0.008 g, 0.037 mmol) and tri-t-butylphosphonium tetrafluoroborate (0.021 g, 0.074 mmol) was added and the tube was purged with nitrogen, sealed, and heated to 100° C. for 17 hours. The reaction was cooled to RT, concentrated and passed through a pad of silica with the aid of 90:10:1 (CH2Cl2:MeOH:NH4OH). The eluent was concentrated to yield 4-(2-(4-aminophenoxy)pyridin-3-yl)-1-H-pyrazole-3-carbonitrile as light brown solid. MS m/z=278 [M+1]+. Calc'd for Cl5H11N5O: 277.28.

reactant | tert-butyl 4-bromo-3-cyano-1-H-pyrazole-1-carboxylate | 0.368 mmol, 0.100 g | BrC=1C(=NN(C1)C(=O)OC(C)(C)C)C#N | C9H10BrN3O2
reactant | 4-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yloxy)benzenamine | 0.735 mmol, 0.229 g | CC1(OB(OC1(C)C)C=1C(=NC=CC1)OC1=CC=C(C=C1)N)C | C17H21BN2O3
reactant | sodium carbonate | 2.0 M, 0.667 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | tri-t-butylphosphonium tetrafluoroborate | 0.074 mmol, 0.021 g | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
catalyst | Palladium(II) acetate | 0.037 mmol, 0.008 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | Dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
product | 4-(2-(4-aminophenoxy)pyridin-3-yl)-1-H-pyrazole-3-carbonitrile | NC1=CC=C(OC2=NC=CC=C2C=2C(=NNC2)C#N)C=C1 | C15H11N5O
